US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (348 mg, 1.5 mmol), HOTT (618 mg, 1.66 mmol), and DIPEA (700 μL, 4.01 mmol) in DMF (10 mL) is stirred at rt under N2 for 10 min. 5-Fluoro-3,3-dimethyl-2,3-dihydro-indol-1-ylamine (239 mg, 1.33 mmol) is added. The resulting mixture is stirred at 80° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 15% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-3,3-dimethyl-2,3-dihydro-indol-1-yl)-amide (416 mg, 80%) as a solid. MS: 395 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 10.43 (s, 1H), 8.99 (s, 1H), 8.28 (d, 1H), 8.15-8.11 (m, 1H), 7.66-7.58 (m, 1H), 7.46-7.39 (m, 1H), 7.06 (dd, 1H), 6.95-6.88 (m, 1H), 6.75-6.71 (m, 1H), 3.51 (s, 2H), 2.68 (s, 3H), 1.33 (s, 6H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.5 mmol, 348 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HOTT | 1.66 mmol, 618 mg | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.01 mmol, 700 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-3,3-dimethyl-2,3-dihydro-indol-1-ylamine | 1.33 mmol, 239 mg | FC=1C=C2C(CN(C2=CC1)N)(C)C | C10H13FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-3,3-dimethyl-2,3-dihydro-indol-1-yl)-amide | 416 mg, 80% | FC=1C=C2C(CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)(C)C | C22H20F2N4O
